US06906072B1
Example 240 1-(4-cyano-5-methyl-4-phenylhexyl)-3-hydroxymethyl-4-[2-(4-fluorophenoxy)ethyl]piperazine
Into a diethyl ether solution (5.0 ml) of lithium aluminum hydride (20 mg) was added dropwise a diethyl ether solution (3.0 ml) of 213 mg of ethyl 4-(4-cyano-5-methyl-4-phenylhexyl)-1-[2-(4-fluorophenoxy)ethyl]-2-piperazinecarboxylate under ice-cooling. After stirring under ice-cooling for one hour, water (0.1 ml), a 1N aqueous sodium hydroxide (0.1 ml) and water (0.2 ml) were successively added to the reaction solution. Anhydrous magnesium sulfate was added to the reaction solution, and the unnecessary product was filtered. The solvent was evaporated, to give the title compound (194 mg).

reactant | lithium aluminum hydride | 20 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(4-cyano-5-methyl-4-phenylhexyl)-1-[2-(4-fluorophenoxy)ethyl]-2-piperazinecarboxylate | 213 mg | C(#N)C(CCCN1CC(N(CC1)CCOC1=CC=C(C=C1)F)C(=O)OCC)(C(C)C)C1=CC=CC=C1 | C29H38FN3O3
reactant | sodium hydroxide | 1N, 0.1 ml | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | 0.2 ml | O | H2O
solvent | water | 0.1 ml | O | H2O
solvent | diethyl ether | 3.0 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5.0 ml | C(C)OCC | C4H10O
product | 1-(4-cyano-5-methyl-4-phenylhexyl)-3-hydroxymethyl-4-[2-(4-fluorophenoxy)ethyl]piperazine | 194 mg | C(#N)C(CCCN1CC(N(CC1)CCOC1=CC=C(C=C1)F)CO)(C(C)C)C1=CC=CC=C1 | C27H36FN3O2
